US09085517B2
N-[(dimethylamino)sulfonyl]-4-fluorobenzamide
To a solution of 4-fluorobenzoic acid (700 mg, 5.0 mmol) in 1,2-dichloroethane (30 mL) was added EDCI (2.38 g, 12.5 mmol), DMAP (1.52 mg, 12.5 mmol) and N,N-diisopropylethylamine (2.17 mL, 12.5 mmol) and stirred for 20 minutes at room temperature. N,N-dimethylaminosulfonamide (1.24 g, 10.0 mmol) was added to the solution and the mixture heated at 60° C. for 2.5 hours. The mixture was cooled, diluted with water (20 mL) and 2M HCl (20 mL) and extracted with DCM (3×30 mL), washed with water (20 mL) and dried over MgSO4. The solvent was removed in vacuo to afford the title compound as a white solid (585 mg, 47%). No further purification was necessary.

reactant | 4-fluorobenzoic acid | 5.0 mmol, 700 mg | FC1=CC=C(C(=O)O)C=C1 | C7H5FO2
reactant | EDCI | 12.5 mmol, 2.38 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | N,N-diisopropylethylamine | 12.5 mmol, 2.17 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-dimethylaminosulfonamide | 10.0 mmol, 1.24 g | CNN(S(=O)=O)NC | C2H9N3O2S
solvent | 1,2-dichloroethane | 30 mL | ClCCCl | C2H4Cl2
catalyst | DMAP | 12.5 mmol, 1.52 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | 20 mL | O | H2O
solvent | HCl | 2M, 20 mL | Cl | ClH
product | N-[(dimethylamino)sulfonyl]-4-fluorobenzamide | 585 mg, 47% | CN(S(=O)(=O)NC(C1=CC=C(C=C1)F)=O)C | C9H11FN2O3S
